US06329405B1
(46a) α-(4-Methoxyphenyl)-3-nitrobenzyl azide
Sodium azide (26.1 g) was added to a solution of α-(4-methoxyphenyl)-3-nitrobenzyl bromide (25.8 g) in dimethylformamide (200 ml) in an ice bath. The mixture was stirred on the ice bath for 1 hour and then at ambient temperature for 1 hour. The dimethylformamidle was then removed by evaporation under reduced pressure. The residue was partitioned between ethyl acetate and water two times. The ethyl acetate layers were combined and washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by chromatography through a silica gel column using a 6:1 by volume mixture of hexane and ethyl acetate as the eluant, to afford the title compound (18.6 g) as a yellow oil.

reactant | Sodium azide | 26.1 g | [N-]=[N+]=[N-].[Na+]
reactant | α-(4-methoxyphenyl)-3-nitrobenzyl bromide | 25.8 g | COC1=CC=C(C=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])Br | C14H12BrNO3
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | α-(4-Methoxyphenyl)-3-nitrobenzyl azide | 18.6 g | COC1=CC=C(C=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])N=[N+]=[N-] | C14H12N4O3
